* source INTERNALRESISTANCECIRCUIT
V_VCC         N00213 0 9Vdc
V_V_BATT         N00225 0 3.7Vdc
R_Rg         N00217 N00221  8.2 TC=0,0 
R_R_LOAD         0 N00241  150m TC=0,0 
X_M1         N00221 N00241 N00225 BUZ-11
X_U1A         N07249 N00241 N00213 0 N00217 LM358
V_V2         N03728 0 5Vdc
R_R2         N03735 N03728  1.05k TC=0,0 
R_R3         0 N03735  1k TC=0,0 
V_V3         N07249 0 2.4Vdc
